US05905088
Synthesis of [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]acrylic acid
A mixture of ethyl [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]acrylate (430 mg, 1 mmol) and lithium hydroxide (430 mg, [lacuna] mmol) in THF (10 ml) was heated under reflux for 12 h. The mixture was acidified to pH 1 with a concentrated hydrochloric acid solution, extracted with ethyl ether and washed with water. After drying, the organic phase was concentrated in a rotary evaporator under vacuum at 40° C.

reactant | ethyl [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]acrylate | 1 mmol, 430 mg | CC1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C2=CC(=CS2)C(C(=O)OCC)=C | C26H32O3S
reactant | lithium hydroxide | 430 mg | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]acrylic acid | CC1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C2=CC(=CS2)C(C(=O)O)=C | C24H28O3S
